US07829560B2
3-Fluoro-N-[4-({2-[(4-methylcyclohexyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B388).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 4-methylcyclohexylamine according to conditions described in general procedure C. Mp: 101-102° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.82 (d, J=6.6 Hz, 3 H), 0.86-1.59 (m, 15 H), 3.27-3.36 (m, 5 H), 6.27 (bs, 1 H), 6.96 (d, J=12.8, 2 H), 7.15 (d, J=8.4 Hz, 1 H), 7.36-7.39 (m, 1H), 7.43 (s, 1 H), 7.54-7.60 (m, 3 H), 7.79-7.83 (m, 1 H), 7.96 (d, J=7.3 Hz, 1 H), 8.18 (s, 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 4-methylcyclohexylamine | CC1CCC(CC1)N | C7H15N
product | 3-Fluoro-N-[4-({2-[(4-methylcyclohexyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NC2CCC(CC2)C)C=C(C1)N1CCCCC1 | C33H36FN5O2
